US06441184B1
A solution of aluminum trichloride (54.9 g, 412 mmol) in chloroform (180 mL) under argon was cooled to 0° C. and then treated dropwise with a solution of methyl chlorooxoacetate (24.3 mL, 264 mmol) in chloroform (190 mL). The reaction mixture was stirred at 0° C. for 30 min and then was treated dropwise with a solution of 2-chlorothioanisole (39.4 g, 247 mmol) in chloroform (180 mL). The reaction mixture turned red in color. The resulting reaction mixture was allowed to warm to 25° C. where it was stirred for 4 h. The reaction mixture was then slowly poured onto ice (700 mL). The resulting yellow mixture was stirred for 15 min and then was filtered through celite to remove the aluminum salts. The filtrate was then extracted with methylene chloride (3×50 mL). The combined organic layers were washed with a saturated aqueous sodium bicarbonate solution (1×50 mL). The organic layer was then dried over magnesium sulfate, filtered, and concentrated in vacuo to afford (3-chloro-4-methylsulfanyl-phenyl)-oxo-acetic acid methyl ester (36.4 g, 60%) as a light yellow oil: EI-HRMS m/e calcd for C10H9ClSO3 (M+) 243.9961, found 243.9958.

reactant | aluminum trichloride | 412 mmol, 54.9 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | methyl chlorooxoacetate | 264 mmol, 24.3 mL | ClC(C(=O)OC)=O | C3H3ClO3
reactant | 2-chlorothioanisole | 247 mmol, 39.4 g | ClC1=C(C=CC=C1)SC | C7H7ClS
solvent | chloroform | 180 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 190 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 180 mL | C(Cl)(Cl)Cl | CHCl3
product | (3-chloro-4-methylsulfanyl-phenyl)-oxo-acetic acid methyl ester | 36.4 g, 60% | COC(C(=O)C1=CC(=C(C=C1)SC)Cl)=O | C10H9ClO3S
